* Z:\Users\Enigmoid\Semester\MADVLSI\Project\vlsi-tunable-amp\ltspice\ampsim.asc
M8 N009 Vbn 0 0 nfet l=1.8u w=36u
M9 N006 Vcn N009 0 nfet l=1.8u w=36u
M10 N005 Vcn N008 0 nfet l=1.8u w=36u
M11 N008 Vbn 0 0 nfet l=1.8u w=36u
M12 N009 V+ N004 Vdd pfet l=1.8u w=36u
M20 N008 V- N004 Vdd pfet l=1.8u w=36u
M21 N006 Vcp N002 Vdd pfet l=1.8u w=36u
M22 N002 N001 Vdd Vdd pfet l=1.8u w=36u
M23 N004 Vbp Vdd Vdd pfet l=1.8u w=36u
M24 N003 N001 Vdd Vdd pfet l=1.8u w=36u
M25 N005 Vcp N003 Vdd pfet l=1.8u w=36u
XX1 Vdd 0 Vbn Vbp Vcn Vcp bias
V1 Vdd 0 5
V2 V+ 0 2.5
V3 V- 0 2.5
M1 N007 N001 Vdd Vdd pfet l=1.8u w=36u
M2 Vout N005 Vdd Vdd pfet l=1.8u w=36u
M3 Vout N007 0 0 nfet l=1.8u w=36u
M4 N007 N007 0 0 nfet l=1.8u w=36u
C2 N007 N001 2p
C3 Vout N005 2p
R1 N001 N006 1Meg
R2 N005 N001 1Meg

* block symbol definitions
.subckt bias Vdd Vss Vbn Vbp Vcn Vcp
M1 N004 Vbn Vss Vss nfet l=1.8u w=36u
M2 Vcp Vbn Vss Vss nfet l=1.8u w=36u
M3 Vbp Vbn N006 Vss nfet l=1.8u w=36u
M4 Vbn Vbn Vss Vss nfet l=1.8u w=36u
M5 N009 N008 Vss Vss nfet l=1.8u w=36u
M6 N008 N008 N009 Vss nfet l=1.8u w=36u m=2
M7 Vcn Vcn N009 Vss nfet l=1.8u w=36u
M13 N001 N001 N002 Vdd pfet l=1.8u w=36u m=2
M14 Vcp Vcp N002 Vdd pfet l=1.8u w=36u
M15 N002 N001 Vdd Vdd pfet l=1.8u w=36u
M16 Vbp Vbp Vdd Vdd pfet l=1.8u w=36u
M17 Vbn Vbp Vdd Vdd pfet l=1.8u w=36u
M18 N005 Vbp Vdd Vdd pfet l=1.8u w=36u
M19 Vcn Vbp Vdd Vdd pfet l=1.8u w=36u
M8 N007 Vbp N005 Vdd pfet l=1.8u w=36u
M9 N008 Vbp N007 Vdd pfet l=1.8u w=36u
M10 N003 Vbn N004 Vss nfet l=1.8u w=36u
M11 N001 Vbn N003 Vss nfet l=1.8u w=36u
Ib N006 Vss 10µ
.include engr3426.sub
.ends bias

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.include engr3426.sub
.dc V2 0 5 1e-3
.backanno
.end
